US04304774
D. 2-(1H-Tetrazole-5-ylmethyl)-2H-tetrazole-5-thiol
5-Benzylthio-2-(1H-tetrazole-5-ylmethyl)-2H-tetrazole, 175 mg., prepared as described above under part C, was dissolved in 40 ml. of distilled DMF and reduced at the mercury pool cathode (14 cm2Hg pool) with a platinum wire anode. The electrodes were separated by a glass frit. The electrolyte was tetraethylammonium perchlorate, 0.1 M in the DMF solution of the substrate. The electrolysis was carried out at -2.7 to -2.85 volts for 500 seconds and at -2.80 v. for about 630 seconds.

reactant | 5-Benzylthio-2-(1H-tetrazole-5-ylmethyl)-2H-tetrazole | C(C1=CC=CC=C1)SC=1N=NN(N1)CC1=NN=NN1 | C10H10N8S
catalyst | mercury | [Hg] | Hg
catalyst | platinum | [Pt] | Pt
solvent | DMF | CN(C)C=O | C3H7NO
product | 2-(1H-Tetrazole-5-ylmethyl)-2H-tetrazole-5-thiol | N1N=NN=C1CN1N=C(N=N1)S | C3H4N8S
